US05730902
Preparation of (S)-4-(4-(trans-4-n-nonyl-4-silacyclohexyl)phenyl)-1-(2-fluorooctyloxy)-2,6-difluorobenzene
The general procedure of Example 1 was repeated using 4-(4-(4-n-nonyl-4-phenyl-4-silacyclohexyl)phenyl) -2,6-difluorophenol and (R)-2-fluoro-1-octanol, thereby obtaining the intended compound.

reactant | 4-(4-(4-n-nonyl-4-phenyl-4-silacyclohexyl)phenyl) -2,6-difluorophenol | C(CCCCCCCC)[Si]1(CCC(CC1)C1=CC=C(C=C1)C1=CC(=C(C(=C1)F)O)F)C1=CC=CC=C1 | C32H40F2OSi
reactant | (R)-2-fluoro-1-octanol | F[C@@H](CO)CCCCCC | C8H17FO
product | (S)-4-(4-(trans-4-n-nonyl-4-silacyclohexyl)phenyl)-1-(2-fluorooctyloxy)-2,6-difluorobenzene | C(CCCCCCCC)[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C(=C1)F)OC[C@H](CCCCCC)F)F | C34H51F3OSi
